US05455273
n) trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine
from 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone and benzylamine. Colourless oil. Rf value: 0.45 (alumina, petroleum ether/ethyl acetate=2:1, v:v).

reactant | 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)C1CCC(CC1)=O)CNC | C19H27NO3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C26H36N2O2
